US07989441B2
To a mixture/suspension of (1S,9S)-9-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-6,10-dioxo-octahydro-pyridazino[1,2-a][1,2]diazepine-1-carboxylic acid phenethyl-amide (310 mg, 0.70 mmol) and hydrozinehydrate (70 mg, 1.40 mmol) in ethanol (10 mL) is stirred at 60° C. for 2 hours. After cooled to room temperature and concentrated, the reaction mixture is purified by chromatography (CH2Cl2/MeOH:97/3) to give (1S,9S)-9-amino-6,10-dioxo-octahydro-pyridazino[1,2-a][1,2]diazepine-1-carboxylic acid phenethyl-amide (240 mg, 99%) as white solid. (NMR and MS data confirmed, U-3133-67).

reactant | (1S,9S)-9-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-6,10-dioxo-octahydro-pyridazino[1,2-a][1,2]diazepine-1-carboxylic acid phenethyl-amide | 0.70 mmol, 310 mg | C(CC1=CC=CC=C1)NC(=O)[C@@H]1CCCN2N1C([C@H](CCC2=O)N2C(C1=CC=CC=C1C2=O)=O)=O | C26H26N4O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (1S,9S)-9-amino-6,10-dioxo-octahydro-pyridazino[1,2-a][1,2]diazepine-1-carboxylic acid phenethyl-amide | 240 mg, 99% | C(CC1=CC=CC=C1)NC(=O)[C@@H]1CCCN2N1C([C@H](CCC2=O)N)=O | C18H24N4O3
